US09034866B2
Synthesis of (1-((4-iodo-2-nitrophenoxy)methyl)cyclopropyl)methanol
A solution of 1-fluoro-4-iodo-2-nitrobenzene (2.50 g, 9.4 mmol) in DMF (30 mL) was treated with 1-(hydroxymethyl)cyclopropylmethanol (1.91 g, 19 mmol) and K2CO3 (2.6 g, 19 mmol) and the mixture was heated at 50° C. for 8 hours. TLC indicated complete consumption of the arylfluoride. The mixture was diluted with water and extracted with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate and concentrated by rotoevaporation. Purification by flash column chromatography (EtOAc in heptanes) gave the titled compound as a light yellow solid (2.31 g, 71% yield). 1H NMR (400 MHz, DMSO) δ 8.15 (d, J=2.2 Hz, 1H), 7.92 (dd, J=8.8, 2.2 Hz, 1H), 7.17 (d, J=8.9 Hz, 1H), 4.60 (t, J=5.6 Hz, 1H), 4.05 (s, 2H), 3.36 (d, J=5.6 Hz, 2H), 0.50 (s, 4H).

reactant | 1-fluoro-4-iodo-2-nitrobenzene | 9.4 mmol, 2.50 g | FC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3FINO2
reactant | 1-(hydroxymethyl)cyclopropylmethanol | 19 mmol, 1.91 g | OCC1(CC1)CO | C5H10O2
reactant | K2CO3 | 19 mmol, 2.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (1-((4-iodo-2-nitrophenoxy)methyl)cyclopropyl)methanol | 2.31 g, 71% yield | IC1=CC(=C(OCC2(CC2)CO)C=C1)[N+](=O)[O-] | C11H12INO4
